US03978066
4,6-Dihydro-8-methylpyrrolo[4,3,2-de]-s-triazolo[3,4-a]isoquinoline (1a, R2 = CH3)
5-Hydrazino-1,3-dihydropyrrolo[4,3,2-de]isoquinoline hydrochloride (50 mg), described in Example 8, is heated at reflux with 3 ml of acetic anhydride for 2 hours. The mixture is cooled and then poured into a saturated solution of sodium bicarbonate. The resulting precipitate is collected and then dissolved in methanol. This solution is rendered acidic by the addition of HCl in ether. The mixture is treated with charcoal and concentrated to give the title compound.

reactant | 5-Hydrazino-1,3-dihydropyrrolo[4,3,2-de]isoquinoline hydrochloride | 50 mg | Cl.N(N)C1=NCC=2C=3C(=CC=CC13)NC2
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4,6-Dihydro-8-methylpyrrolo[4,3,2-de]-s-triazolo[3,4-a]isoquinoline | CC1=NN=C2N1CC=1C=3C(=CC=CC23)NC1 | C12H10N4
